US06201129B1
A solution of methyl pyrrole-2-carboxylate (0.222 g, 1.7 mmol) and ethyl 5-acetoxymethyl-4-acetyl-3-methylpyrrole-2-carboxylate (0.474 g, 1.7 mmol) in 1,2-dichloroethane (20 cm3) was heated under reflux and stirred with Montmorillonite clay for 7 h. The reaction was followed to completion by TLC. After the clay had been filtered off and washed well with 1,2-dichloroethane, evaporation of the combined filtrates under reduced pressure gave an oil. Chromatographic separation of an oil eluting with (5-40%) ethylacetate in hexane gave Ethyl 6-methoxycarbonyl-3,4-dimethylpyrrolo[2,3-f]indole-2-carboxylate (isomer I) as a yellow solid after crystallisation from dichloromethane-petroleum ether (0.030 g, 5.62%), m.p. 245-248° C.; δH ([2H6]-DMSO) 11.16 (1H, s, 5-NH), 11.00 (1H, s, 1-NH), 7.45 (1H, s, 8-H), 7.20 (1H, s 7-H), 4.37 (2H, q, OCH2CH3), 3.91 (3H, s, OCH3), 2.95 (3H, s, 3-CH3), 2.88 (3H, s, 4-CH3), 1.37 (3H, t, OCH2CH3); saturation of the 1-NH at δ 11.00 enhanced the signal due to 8-H at δ 7.45 (3.9%), saturation of the 4-CH3 of δ 2.88 enhanced the signal due to 5-NH at δ 11.16 (12.3%) and saturatoin of the 5-NH at 11.16 enhanced the signal due to 4-CH3 at δ 2.88 (2%); m/z (%) 314 (81, M+), 282 (55), 268 (89), 236 (100), 208 (56), 179 (50), 153 (48), 118 (56), 90 (82) and 77 (72) (Found: M+314.1267. C17H18N2O4 requires 314.1266; Ethyl 6-methoxycarbonyl-3,4-dimethylpyrrolo[3,2-f]indole-2-carboxylate (isomer II) as yellow crystals after crystallization from dichloromethane-petroleum ether (0.0584 g, 10.94%), m.p. 242-245° C.; δH ([2H6]-DMSO) 11.36 (1H, s, 7-NH), 10.92 (1H, s, 1-NH), 7.33 (1H, s, 8-H), 7.24 (1H, s 5-H), 4.36 (2H, q, OCH2CH3), 3.89 (3H, s, OCH3), 2.92 (3H, s, 3-CH3), 2.87 (3H, s, 4-CH3), 1.37 (3H, t, OCH2CH3); m/z (%) 314 (60, M+), 282 (50), 268 (62), 236 (60), 208 (60), 179 (55), 165 (34), 152 (52), 134 (48), 127 (56) and 188 (100) (Found: M+314.1267. C17H18N2O4 requires 314.1266); Further elution gave 2-(3′-acetyl-5′-ethoxycarbonyl-4′-methylpyrrol-2-ylmethyl-5-methoxycarbonylpyrrole as off-white crystals after crystallization from dichloromethane-petroleum ether (0.0912 g, 16.16%), m.p. 160-162° C.; δH (CDCl3), 10.40 (1H, s, 1-NH), 9.78 (1H, s, 1′-NH), 6.79 (1H, dd J 4 and 2.5, 4-H), 6.09 (1H, dd J 4 and 2.5, 3-H), 4.30 (2H, q, OCH2CH3); 4.22 (2H, s, CH2), 3.80 (3H, s, OCH3), 2.58 (3H, s, CH3), 2.50 (3H, s COCH3), 1.33 (3H, t, OCH2CH3; m/z (%) 332 (66, M+), 300 (55), 271 (54), 254 (66), 227 (61), 211 (55), 183 (65), 155 (59), 128 (66), 106 (85), 94 (45), 78 (66), 51 (37), 43 (100); and 2,3-di(3-acetyl-5-ethoxycarbonyl-4-methylpyrrol-2′-ylmethyl-5-methoxycarbonylpyrrole as off-white crystals after crystallization from benzene-petroleum ether (0.1885 g, 41.15%), m.p. 203-206° C. (Found: C, 62.24; H, 6.16; N, 7.66. C28H33N3O8 requires, C, 62.32; H, 6.16; N, 7.79%); δH (CDCl3) 11.08 (1H, s, NH), 9.42 (1H, s, NH), 9.13 (1H, s, NH), 6.63 (1H, d J 2, 4-H), 4.33 (2H, q, OCH2CH3); 4.32 (2H, q, OCH2CH3), 4.13 (2H, s, 2-CH2), 4.11 (2H, s, 3-CH2), 3.77 (3H, s, OCH3), 2.61 (3H, s, CH3), 2.59 (3H, s, CH3), 2.57 (6H, s, 2×CH3), 1.37 (3H, t, OCH2CH3), 1.36 (3H, t, OCH2CH3).

reactant | methyl pyrrole-2-carboxylate | 1.7 mmol, 0.222 g | N1C(=CC=C1)C(=O)OC | C6H7NO2
reactant | ethyl 5-acetoxymethyl-4-acetyl-3-methylpyrrole-2-carboxylate | 1.7 mmol, 0.474 g | C(C)(=O)OCC1=C(C(=C(N1)C(=O)OCC)C)C(C)=O | C13H17NO5
solvent | 1,2-dichloroethane | 20 cm3 | ClCCCl | C2H4Cl2
product | Ethyl 6-methoxycarbonyl-3,4-dimethylpyrrolo[2,3-f]indole-2-carboxylate | COC(=O)C1=NC2=C(C=3C(=CC2=C1)N=C(C3C)C(=O)OCC)C | C17H16N2O4
